US03932425
A solution of 3.63 g. (0.0115 M) of spiro[cyclohexane-1,1'(2'H)-naphthalene]-4,4'(3'H)-dione, 4-(2,2-dimethyltrimethylene ketal(p) (prepared as in Example 14A), 1.54 ml. of hydrazine hydrate and 2.23 g. of potassium hydroxide in 28 ml. of ethylene glycol is heated to reflux. Distillate is collected until the pot temperature rises to 200° C. and refluxing is continued for about 18 hours. The mixture is poured into water and a precipitated material is extracted with ether. The combined extracts are washed with water and brine and then evaporated to dryness. The residue is recrystallized from petroleum ether to give 2.39 g. (69.5% yield) of 3',4'-dihydrospiro[cyclohexane-1,1'(2'H)-naphthalene]-4-one, 2,2-dimethyltrimethylene ketal(q) having a melting point of 109° to 111° C.

reactant | spiro[cyclohexane-1,1'(2'H)-naphthalene]-4,4'(3'H)-dione | 0.0115 M | C12(CCC(C3=CC=CC=C13)=O)CCC(CC2)=O | C15H16O2
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 3',4'-dihydrospiro[cyclohexane-1,1'(2'H)-naphthalene]-4-one | 69.5% yield | C12(CCCC3=CC=CC=C13)CCC(CC2)=O | C15H18O
